US08426420B2
iv) 4-((S)-2-Amino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid butyl ester
To a solution of 15.8 g 4-((S)-2-Benzyloxycarbonylamino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid butyl ester in 60 ml ethanol were added 1.8 g Pd/C (10%) and the suspension stirred under an atmosphere of hydrogen (3 bar) for 12 h. The reaction mixture was filtrated over a plug of Celite, washed with ethanol and concentrated to give the crude product which was purified by flash chromatography on silica using dichloro-methane/methanol 90:10 as eluent. Yield: 9.6 g colorless oil.

reactant | 4-((S)-2-Benzyloxycarbonylamino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid butyl ester | 15.8 g | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C26H39N3O7
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | Pd/C | 1.8 g | [Pd] | Pd
product | 4-((S)-2-Amino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)N)=O | C18H33N3O5
